US04751017
17.2 g of 2-hydroxy-5-pentyl-1,3,2-dioxaborinane (prepared from trichloroborane and 2-hydroxymethylheptan-1-ol, followed by hydrolysis), 16.6 g of 4-cyanobenzoyl chloride and 15 ml of pyridine in 500 ml of toluene are heated at reflux temperature for 4 hours. Water is added to the mixture, the phases are separated, the organic phase is washed with water, dried over sodium sulphate and evaporated, and (5-pentyl-1,3,2-dioxaborinan-2-yl) 4-cyanobenzoate is obtained.

reactant | 2-hydroxy-5-pentyl-1,3,2-dioxaborinane | 17.2 g | OB1OCC(CO1)CCCCC | C8H17BO3
reactant | 4-cyanobenzoyl chloride | 16.6 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (5-pentyl-1,3,2-dioxaborinan-2-yl) 4-cyanobenzoate | C(#N)C1=CC=C(C(=O)OB2OCC(CO2)CCCCC)C=C1 | C16H20BNO4
